US04758587
A solution of 2-methoxy-1,4-naphthoquinone (20.0 g) in tetrahydrofuran (150 mL) was hydrogenated at atmospheric pressure over Pd-C (10%, 0.5 g) until the calculated amount of hydrogen was absorbed, approximately 4 hours. While still under a blanket of hydrogen, a solution of acetic anhydride (20 mL) and pyridine (18 mL) in tetrahydrofuran (50 mL) was added to the mixture. After stirring for 1 hour the catalyst was filtered off and the solvent removed from the filtrate under reduced pressure. The residue was dissolved in ether (100 mL) and was washed with 1M hydrochloric acid (3×50 mL) and with brine (2×50 mL). The organic layer was dried over sodium sulfate, filtered, and evaporated. Recrystallization from ether afforded 2-methoxy-1,4-diacetyloxynaphthalene, m.p. 135°-136° C.

reactant | 2-methoxy-1,4-naphthoquinone | 20.0 g | COC=1C(C2=CC=CC=C2C(C1)=O)=O | C11H8O3
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
catalyst | Pd-C | 0.5 g | [Pd] | Pd
product | 2-methoxy-1,4-diacetyloxynaphthalene | COC1=C(C2=CC=CC=C2C(=C1)OC(C)=O)OC(C)=O | C15H14O5
